US03971791
Upon heating a solution of 4.8 g of 6-methylpyridin-2-aldehyde, 4.5 g of cyclohexane-1,3-dione and 5.2 g of amidinoacetic acid ethyl ester in 120 ml of ethanol for 8 hours, 2-amino-4-(6-methylpyrid-2-yl)-1,4,5,6,7,8-hexahydro-5-oxoquinoline-3-carboxylic acid ethyl ester of melting point >260°C (ethanol/DMF) is obtained. Yield: 46% of theory.

reactant | 6-methylpyridin-2-aldehyde | 4.8 g | CC1=CC=CC(=N1)C=O | C7H7NO
reactant | cyclohexane-1,3-dione | 4.5 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | amidinoacetic acid ethyl ester | 5.2 g | C(C)OC(CC(N)=N)=O | C5H10N2O2
reactant | ethanol DMF | C(C)O.CN(C)C=O
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | 2-amino-4-(6-methylpyrid-2-yl)-1,4,5,6,7,8-hexahydro-5-oxoquinoline-3-carboxylic acid ethyl ester | Yield: 46% | C(C)OC(=O)C1=C(NC=2CCCC(C2C1C1=NC(=CC=C1)C)=O)N | C18H21N3O3
